* e:\ic_74hc58\ic_74hc58.cir

.include 74HC58.sub
x1 net-_u11-pad6_ net-_u11-pad8_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u11-pad5_ net-_u11-pad7_ net-_u13-pad1_ net-_u14-pad1_ 74HC58
* u12  a1 b1 c1 d1 e1 f1 net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ adc_bridge_6
* u11  a2 b2 c2 d2 net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ adc_bridge_4
* u13  net-_u13-pad1_ y1 dac_bridge_1
* u14  net-_u14-pad1_ y2 dac_bridge_1
v1  a1 gnd pulse(0 5 0.01n 0.01n 0.01n 1m 2m)
v2  b1 gnd pulse(0 5 0.01n 0.01n 0.01n 2m 4m)
v3  c1 gnd pulse(0 5 0.01n 0.01n 0.01n 3m 6m)
v4  d1 gnd pulse(0 5 0.01n 0.01n 0.01n 4m 8m)
v5  e1 gnd pulse(0 5 0.01n 0.01n 0.01n 5m 10m)
v6  f1 gnd pulse(0 5 0.01n 0.01n 0.01n 6m 12m)
v7  a2 gnd pulse(0 5 0.01n 0.01n 0.01n 7m 14m)
v8  b2 gnd pulse(0 5 0.01n 0.01n 0.01n 8m 16m)
v9  c2 gnd pulse(0 5 0.01n 0.01n 0.01n 9m 18m)
v10  d2 gnd pulse(0 5 0.01n 0.01n 0.01n 10m 20m)
* u15  y1 plot_v1
* u16  y2 plot_v1
* u1  a1 plot_v1
* u2  b1 plot_v1
* u3  c1 plot_v1
* u4  d1 plot_v1
* u5  e1 plot_v1
* u6  f1 plot_v1
* u7  a2 plot_v1
* u8  b2 plot_v1
* u9  c2 plot_v1
* u10  d2 plot_v1
a1 [a1 b1 c1 d1 e1 f1 ] [net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ ] u12
a2 [a2 b2 c2 d2 ] [net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ ] u11
a3 [net-_u13-pad1_ ] [y1 ] u13
a4 [net-_u14-pad1_ ] [y2 ] u14
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-06 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth=3
plot v(y1) v(y2)+10
plot v(a1) v(b1)+10 v(c1)+20 v(d1)+30 v(e1)+40 v(f1)+50 v(a2)+60 v(b2)+70 v(c2)+80 v(d2)+90
.endc
.end
